US04945098
1-Hexadecyloxy-3-(4-[5-(2-hydroxyethyl)-4-methyl-3-thiazolio]butoxy)-2-methylenepropane methanesulfonate
1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane (from Preparation 7) (0.30 g) was heated with 5-(2-hydroxyethyl)-4-methylthiazole at 56° C. for 5 days. Excess 5-(2-hydroxyethyl)-4-methylthiazole was removed in vacuo.

reactant | 1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane | 0.30 g | C(CCCCCCCCCCCCCCC)OCC(COCCCCOS(=O)(=O)C)=C | C25H50O5S
reactant | 5-(2-hydroxyethyl)-4-methylthiazole | OCCC1=C(N=CS1)C | C6H9NOS
product | 1-Hexadecyloxy-3-(4-[5-(2-hydroxyethyl)-4-methyl-3-thiazolio]butoxy)-2-methylenepropane methanesulfonate | CS(=O)(=O)[O-].C(CCCCCCCCCCCCCCC)OCC(COCCCC[N+]1=CSC(=C1C)CCO)=C | InChI=1S/C30H56NO3S.CH4O3S/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-18-23-33-25-28(2)26-34-24-19-17-21-31-27-35-30(20-22-32)29(31)3;1-5(2,3)4/h27,32H,2,4-26H2,1,3H3;1H3,(H,2,3,4)/q+1;/p-1
